US06353006B1
Isobutylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-isobutyl-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-Isobutyl-N-(2,2-dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2,4-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,4-1-dichlorophenylimino)-3-isobutyl-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | Isobutylamine | C(C(C)C)N | C4H11N
reactant | 1,2-epoxy-2-methylpropane | O1CC1(C)C | C4H8O
product | N-isobutyl-N-(2,2-dimethyl-2-hydroxyethyl)amine | C(C(C)C)NCC(O)(C)C | C8H19NO
